* AD8634 SPICE Macro-model               
* Function: Amplifier
* 
* Revision History:
* Rev. 0.0 (Mar 2014) ADSJ-RM  
* Copyright 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html 
* for License Statement. Use of this model indicates your acceptance
* of the terms and provisions in the License Statement.
* 
* modeled:
*  +/-15V (30V) only, not checked at lower voltages
*  modeling based on the typical values stated in the datasheet table
*
* Parameters modeled include:VOS , CMRR, PSRR, voltage noise,
*  Vdo, gbw & phase margin, slew rate, CL Zout, Isy, ISC 
*
* Node assignments
*                non-inverting input
*                |  inverting input
*                |  |  positive supply
*                |  |  |  negative supply
*                |  |  |  |  output
*                |  |  |  |  |
.SUBCKT AD8634	1	2	99	50	45


* INPUT STAGE
*
Q1   5  11  301  QIN 1; 301
Q2   6   2  302  QIN 1; 302
Cx1 5   6  7.0E-12
Q3   7  11  303  QIP 1; 303
Q4   8   2  304  QIP 1; 304
Cx2  7   8  7.0E-12
DC1  2    11   DC
DC2  11   2    DC
Q5   4    9    99   QIP 1;  
Q6   9    9    99   QIP 1
Q7   3    10   50   QIN 1;  
Q8   10   10   50   QIN 1
R1   99   5    4.5E3
R2   99   6    4.5E3
R3   7    50   4.0E3
R4   8    50   4.0E3
RE1 301    3   12.0E+1
RE2 302    3   12.0E+1
RE3 303    4   12.0E+1
RE4 304    4   12.0E+1
IREF  9   10   69E-06
GREF  9   10   POLY(1) (99,50) 0 2.5E-07
EOS  1    11   POLY(4) (81,98)(83,98)(22,98)(73,98) -90E-6 1 1 1 1
IOS  1    2     -10E-09
CIN  1    2     1.1E-12
CICM1  1   50   2.4E-12
CICM2  2   50   2.4E-12
Dinp1  1  99 DC
Dinp2  50  1 DC
Dinn1  2  99 DC
Dinn2  50  2 DC
GN1  1 98    POLY(1) (1,50) 53E-09 -2.15E-9
GN2  2 98    POLY(1) (2,50) 56E-09 -2.11E-9
*

G101 98 211 POLY(2) (5,6) (7,8) 0 5.3E-04 5.3E-04
R101 211 98 1.0E6
*
E201 311 98 POLY(1) (211,98)0 2.0E+0 
R202 311 321 1.8E+3;  
C202 311 321 8E-16
R203 321 98  1.8E+3
*
E3  252  98 (321 98) 2E-0
R31 252 253 1.0E+3
C31 253 252 9E-11; -12
R32 253 98 1.0E+3
* 
* GAIN STAGE
*
G2   98 251 (253, 98) 1.0E-06
R5  251 98 8.2E5
RF  251 250 75.0E+00
CF  245 250 40.5E-11
EF (245 98) (45,98) 1
D3  251 451 DX
D4  452 251 DX
V1  451 98 -0.038 ;  
V2  452 98 -0.29
*
* CMRR
*
ECM   72 98 POLY(2) (1,98) (2,98) 0 3.42E-03 3.42E-03
RCM1  72 73 3.061E+01
RCM2  73 98 7.958E-03
CCM1  72 73 1.0E-6
*
* PSRR
*
EPSY 21 98 POLY(1) (99,50) -197.534E+00 6.584E-00
RPS1 21 22 5.341E+03
RPS2 22 98 7.958E-04
CPS1 21 22 1.000E-06
*
* VOLTAGE NOISE 
*
VN1 80 98 0
RN1 80 98 43.5E-3
HN  81 98 VN1 5.3
RN2 81 98 1
*
* FLICKER NOISE CORNER 
*
DFN 82 98 DNOISE 1000
IFN 98 82 DC 1E-03
DFN2 182 98 DNOISE
IFN2 98 182 DC 1E-06
GFN 83 98 POLY(1) (182,82) 1.00E-13 1.00E-04
RFN 83 98 1
*
D60 60 0 DN1 1000
I60 0 60 1M
D61 61 0 DN4
I61 0 61 1U
D62 62 0 DN3
I62 0 62 1U
D63 63 0 DN2
I63 0 63 1U
G60 3 50 61 60 .007
G61 2 50 61 60 .008
G62 3 2 62 60 .000092
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 .5 .5
GSY  99 50 POLY(1) (99,50) 403E-6 6.036E-6   
*
* OUTPUT STAGE
*
Q33  450 41 99 POUT
Cco1 450 41  2.5E-12
RB1  40 41 1.5E3
EB1  99 40 POLY(1) (98,251) 7.535E-01 1; 
Q34  450 43 50 NOUT
Cco2 450 43  5E-12
RB2  42 43 2.0E3
EB2  42 50 POLY(1) (251,98) 7.520E-01  1;
Lout 45 450 1E-09 
*
* MODELS
*
.MODEL DC D(IS=1E-14,CJO=1E-15)
.MODEL DX D(IS=1E-14,CJO=1E-15)
.MODEL DY D(IS=1E-16,RS=0.1)
.MODEL DIN1 D(RS=5.358 KF=56E-15 AF=1)
.MODEL DIN2 D(RS=5.358 KF=56E-15 AF=1)
.MODEL DN1 D IS=1E-16
.MODEL DN2 D IS=1E-16 AF=1 KF=1.05E-17
.MODEL DN3 D IS=1E-16 AF=1 KF=2.8E-17
.MODEL DN4 D IS=1E-16 AF=1 KF=4.5E-17

.MODEL DNOISE D(IS=1E-16,RS=1E-3,KF=1.14E-11)
.MODEL QIN NPN(BF=130 VA=200 IS=0.5E-16)
.MODEL QIP PNP(BF=80 VA=140 IS=0.5E-16)
.MODEL NOUT NPN(BF=140 VA=350 IS=0.5E-16 BR=8.4 VAR=20 RC=4.0E1)
.MODEL POUT PNP(BF=80  VA=130 IS=0.5E-16 BR=5   VAR=20 RC=6.0E1)
*
.ENDS AD8634